US04785017
The procedure of Example 7 was employed to alkylate 0.9 g of the ethyl ester of racemic-3,4-dihydro-6-hydroxy-2-methyl-2H-1-benzopyran-2-carboxylic acid with 4'-(3-bromopropoxy)-2'-hydroxy-3'-n-propylacetophenone (1.5 g), using sodium hydride (12.16 mmole), and sodium iodide (10 mmoles), in N,N-dimethylformamide. After saponification with lithium hydroxide monohydrate (1.5 g), the crude acid product was purified by chromatography on silica gel. There was obtained 1.16 g (68.9%) of racemic-6-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3,4-dihydro-2-methyl-2H-1-benzopyran-2-carboxylic acid as an off-white solid mp 108°-110.5° C.

reactant | racemic-3,4-dihydro-6-hydroxy-2-methyl-2H-1-benzopyran-2-carboxylic acid | OC=1C=CC2=C(CCC(O2)(C(=O)O)C)C1 | C11H12O4
reactant | 4'-(3-bromopropoxy)-2'-hydroxy-3'-n-propylacetophenone | 1.5 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H19BrO3
reactant | sodium hydride | 12.16 mmole | [H-].[Na+]
reactant | sodium iodide | 10 mmoles | [I-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | racemic-6-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3,4-dihydro-2-methyl-2H-1-benzopyran-2-carboxylic acid | 1.16 g, 68.9% | C(C)(=O)C1=C(C(=C(OCCCOC=2C=CC3=C(CCC(O3)(C(=O)O)C)C2)C=C1)CCC)O | C25H30O7
